US03946000
7-Amino-3-(5-methyl-1,3,4-thiadiazol-2 -ylthiomethyl)-3-cephem-4-carboxylic acid.
To a stirred suspension of 2.72 g. (0.01 mole) of 7-ACA in 50 ml. of 0.1 M, pH 6.4 phosphate buffer, was added 1.68 g. (0.02 mole) of NaHCO3 followed by 1.45 g. (0.011 mole) of 2-mercapto-5-methyl-1,3,4-thiadiazole and the mixture heated and stirred at 60° C. for five hours. The resulting slurry was then allowed to cool to about 22° C. over a one hour period. The crystalline precipitate was collected by filtration, washed with water and air dried. Yield 1.3 g., dec. pt. 206° C. Scaling up the reaction 10X gave 18.0 g.

reactant | 7-ACA | 0.01 mole | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | phosphate | 0.1 M, pH 6.4 | P(=O)([O-])([O-])[O-]
reactant | NaHCO3 | 0.02 mole | C(=O)(O)[O-].[Na+]
reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | 0.011 mole | SC=1SC(=NN1)C | C3H4N2S2
product | 7-Amino-3-(5-methyl-1,3,4-thiadiazol-2 -ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
